US04751228
1.0 g (3.0 mMole) methyl (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-phenyl-1,6-naphthyridine-3-carboxylate (for the preparation cf. Federal Republic of Germany Patent Specification No. 34 31 303) in ethanol-free chloroform is cooled to -10° C., mixed with 0.26 ml (3.2 mMole) pyridine and subsequently portionwise with 1.1 g (3.1 mMole) pyridinium bromide perbromide (90%). After 30 minutes at -10° C., 0.62 g (6.2 mMole) N-methylpiperazine is added dropwise thereto and the reaction mixture is stirred for 15 minutes at -10° C. and then warmed to 20° C. within the course of one hour. The reaction mixture is diluted with chloroform, washed with water and the organic phase is dried over anhydrous sodium sulphate. The residue obtained after distilling off the solvent is chromatographed on silica gel with dichloromethane/methanol (9:1 v/v). The fraction with the Rf of 0.3 is recrystallized from n-hexane. There is obtained methyl (±)-1,4-dihydro-5 -isopropoxy-2-[(4-methyl-piperazin-l-yl)-methyl]-4-phenyl-1,6-naphthyridine-3-carboxylate in the form of colorless crystals; mp 149°-151° C.

reactant | methyl (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-phenyl-1,6-naphthyridine-3-carboxylate | 3.0 mMole, 1.0 g | C(C)(C)OC1=C2C(C(=C(NC2=CC=N1)C)C(=O)OC)C1=CC=CC=C1 | C20H22N2O3
reactant | pyridine | 3.2 mMole, 0.26 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridinium bromide perbromide | 3.1 mMole, 1.1 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | N-methylpiperazine | 6.2 mMole, 0.62 g | CN1CCNCC1 | C5H12N2
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl (±)-1,4-dihydro-5 -isopropoxy-2-[(4-methyl-piperazin-l-yl)-methyl]-4-phenyl-1,6-naphthyridine-3-carboxylate | C(C)(C)OC1=C2C(C(=C(NC2=CC=N1)CN1CCN(CC1)C)C(=O)OC)C1=CC=CC=C1 | C25H32N4O3
